** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/DAC3bit_tb.sch
**.subckt DAC3bit_tb out
*.opin out
x1 b0 b1 b2 net1 out 0 DAC3bit
V1 net1 0 1.8
V2 b0 0 1.8
V3 b1 0 1.8
V4 b2 0 1.8
**** begin user architecture code
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.control
save all

let n_codes = 8
let vout_meas = unitvec(n_codes)
let code = 0
let bit0 = 0
let bit1 = 0
let bit2 = 0
dowhile bit2 < 2
  dowhile bit1 < 2
    dowhile bit0 < 2
      alter V2 = bit0 * 1.8
      alter V3 = bit1 * 1.8
      alter V4 = bit2 * 1.8
      op
      let vout_value=v(out)
      let vout_meas[code]=vout_value
      echo Codice $&code : b2=$&bit2 b1=$&bit1 b0=$&bit0, Vout=$&vout_value V
      let bit0 = bit0 + 1
      let code = code + 1
    end
    let bit1 = bit1 + 1
    let bit0 = 0
  end
  let bit2 = bit2 + 1
  let bit1 = 0
end
let v_min = vout_meas[0]
let v_max = vout_meas[n_codes - 1]
let lsb_ideal = (v_max - v_min) / (n_codes - 1)
echo ======================================
echo LSB ideale = $&lsb_ideal V
let dnl = unitvec(n_codes)
let i = 1
dowhile i < n_codes
  let step_reale = vout_meas[i] - vout_meas[i-1]
  let dnl[i] = (step_reale / lsb_ideal) - 1
  let dnl_curr = dnl[i]
  echo DNL codice $&i : $&dnl_curr LSB
  let i = i + 1
end
let inl = unitvec(n_codes)
let l = 0
dowhile l < n_codes
  let v_ideal = v_min + l * lsb_ideal
  let inl[l] = (vout_meas[l] - v_ideal) / lsb_ideal
  let inl_curr = inl[l]
  echo INL codice $&l : $&inl_curr LSB
  let l = l + 1
end
echo ======================================
echo Vout min/max: $&v_min V / $&v_max V
echo ======================================
print vout_meas > dac_transfer.txt
print dnl > dac_dnl.txt
print inl > dac_inl.txt
write DAC3bit_op.raw
ac dec 20 1k 100meg
write DAC3bit_ac.raw
tran 1n 5u
write DAC3bit_tran.raw
.endc

**** end user architecture code
**.ends

* expanding   symbol:  DAC3bit.sym # of pins=6
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/DAC3bit.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/DAC3bit.sch
.subckt DAC3bit b0 b1 b2 VDD out GND
*.opin out
*.ipin b0
*.ipin b1
*.ipin b2
*.ipin GND
*.ipin VDD
XR1 GND net3 sky130_fd_pr__res_generic_po W=1 L=21
XR2 net3 net1 sky130_fd_pr__res_generic_po W=1 L=21
XR3 b0 net4 sky130_fd_pr__res_generic_po W=1 L=21
XR4 net4 net1 sky130_fd_pr__res_generic_po W=1 L=21
XR5 b1 net5 sky130_fd_pr__res_generic_po W=1 L=21
XR6 net5 net2 sky130_fd_pr__res_generic_po W=1 L=21
XR7 b2 net6 sky130_fd_pr__res_generic_po W=1 L=21
XR8 net6 vx sky130_fd_pr__res_generic_po W=1 L=21
XR9 net1 net2 sky130_fd_pr__res_generic_po W=1 L=21
XR10 net2 vx sky130_fd_pr__res_generic_po W=1 L=21
XR12 VDD out sky130_fd_pr__res_generic_po W=1 L=21
XR13 out GND sky130_fd_pr__res_generic_po W=1 L=21
XR11 out vx sky130_fd_pr__res_generic_po W=1 L=63
.ends

.end
